US04107307
6,8-Dimethyl-imidazo[1,5-d]-as-triazin-4(3H)-one
A mixture of 7.37 gm. of 3-[(2,5-dimethyl-4-imidazolyl)methylene]carbazic acid ethyl ester and 50 ml. of diphenyl ether is reacted as described in Example 70 giving the desired product, m.p. 263°-263.5° C.

reactant | 3-[(2,5-dimethyl-4-imidazolyl)methylene]carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1C)C)=O | C9H14N4O2
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6,8-Dimethyl-imidazo[1,5-d]-as-triazin-4(3H)-one | CC1=NC(=C2N1C(NN=C2)=O)C | C7H8N4O
